US05034394
(±)-cis-4-[(2-Amino-4-chloro-6-pyrimidinyl)amino]-2-cyclopentene-1-methanol
cis-4-Acetamidocyclopent-2-enemethyl acetate [U.S. Pat. No. 4,268,672] (14.88 g, 0.073 mol) and barium hydroxide octahydrate (46.19 g, 0.146 mol) were refluxed in water (300 mL) under nitrogen for 18 hours. The resulting solution was neutralized with carbon dioxide. The precipitate was washed with water, then ethanol. The combined filtrate-wash was evaporated to a syrup (11.16 g) which was condensed with 2-amino-4,6-dichloropyrimidine (23.91 g, 0.146 mol) and triethylamine (30.5 mL, 0.219 mol) in refluxing 1-butanol (100 mL) for 1.5 hours. After addition of 1N NaOH (73 mL), the resulting mixture was evaporated to dryness and the residual solid slurried in CHCl3 (200 mL). Unreacted 2-amino-4,6-dichloropyrimidine was filtered off and washed with chloroform (100 mL). The chloroform filtrate-wash was concentrated and chromatographed on a silica gel column. Additional pyrimidine starting material was eluted with 2.5% methanol-chloroform. The title compound was eluted with 3.5% methanol-chloroform as an off-white solid foam (15.90 g, 91%).

reactant | acetate | C(C)(=O)[O-]
reactant | barium hydroxide octahydrate | 0.146 mol, 46.19 g | O.O.O.O.O.O.O.O.[OH-].[Ba+2].[OH-]
reactant | carbon dioxide | C(=O)=O | CO2
reactant | 2-amino-4,6-dichloropyrimidine | 0.146 mol, 23.91 g | NC1=NC(=CC(=N1)Cl)Cl | C4H3Cl2N3
reactant | triethylamine | 0.219 mol, 30.5 mL | C(C)N(CC)CC | C6H15N
reactant | NaOH | 1N, 73 mL | [OH-].[Na+]
reactant | 1-butanol | 100 mL | C(CCC)O | C4H10O
solvent | water | 300 mL | O | H2O
product | (±)-cis-4-[(2-Amino-4-chloro-6-pyrimidinyl)amino]-2-cyclopentene-1-methanol | NC1=NC(=CC(=N1)Cl)N[C@H]1C=C[C@H](C1)CO | C10H13ClN4O
